US04064350
7 Parts of this ether and 7 parts of potassium fluoride are placed in 7.5 parts by volume of dimethylformamide and stirred at room temperature for 3 hours. The reaction mixture is poured into water and extracted with ether. The ether extracts are washed with water and dried over anhydrous sodium sulfate. Removal of solvent provides 4-hydroxy-4-methyl-3-tetrahydropyranyloxy-1-octyne and this material is hydrolysed in 50 parts by volume of acetic acid, 20 parts by volume of tetrahydrofuran, and 20 parts by volume of water by stirring the mixture for 10 hours at room temperature and then heating the mixture at 60°-70° C for two hours. The reaction mixture is poured into a mixture of ethyl acetate/ether/water and the organic layer is separated. The organic layer is washed with water and dilute sodium hydroxide. The organic layer is dried over anhydrous sodium sulfate and the solvent removed. Chromatography on silica gel with elution in 40% ethyl acetate/hexane provides 3,4-dihydroxy-4-methyl-1-octyne.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | water | O | H2O
reactant | ethyl acetate ether water | C(C)(=O)OCC.CCOCC.O
product | 3,4-dihydroxy-4-methyl-1-octyne | OC(C#C)C(CCCC)(C)O | C9H16O2
